US07655671B2
Synthesis of (17R)-14β-[(4-chlorobenzyl)oxy]-17-cyclopropylmethyl-4,5α-epoxy-3-hydroxy-17-methyl-6-oxomorphinanium-iodide (compound 51)
A solution of 14β-[(4-chlorobenzyl)oxy]-17-cyclopropylmethyl-4,5α-epoxy-3-hydroxymorphinan-6-one (0.50 g, 1.07 mmol) and methyl iodide (0.76 g, 5.37 mmol) in 8 ml of water-free acetonitrile was stirred under N2 at 40° C. (bath temperature) for 6 days and then evaporated down. The residue (0.56 g of brown oil) was purified using column chromatography (silica gel; CH2Cl2/MeOH 250:4). Yield: 0.07 g (11%) of beige crystals of the compound 51. Fp. 214-219° C.; MS (CI): 480 (M+); IR (KBr): 1733 (C═O) cm−1; 1H-NMR (DMSO-d6 δ in ppm): 9.57 (s, OH), 7.57 (d, 2 arom. H, C14-OCH2Ph—Cl, J=8.6 Hz), 7.48 (d, 2 arom. H, C14-OCH2Ph—Cl, J=8.6 Hz), 6.71 (s, 2 arom. H), 5.10 (s, CH-5), 4.86 (d, 1H, C14-OCH2, J=11.4 Hz), 4.75-4.66 (m, 3H, C14-OCH2 and CH-9), 3.44 (s, CH3N+, axial).

reactant | 14β-[(4-chlorobenzyl)oxy]-17-cyclopropylmethyl-4,5α-epoxy-3-hydroxymorphinan-6-one | 1.07 mmol, 0.50 g | ClC1=CC=C(CO[C@@]23CCC([C@H]4[C@]25C=2C(=C(C=CC2C[C@H]3N(CC5)CC5CC5)O)O4)=O)C=C1 | C27H28ClNO4
reactant | methyl iodide | 5.37 mmol, 0.76 g | CI | CH3I
solvent | water | 8 ml | O | H2O
product | (17R)-14β-[(4-chlorobenzyl)oxy]-17-cyclopropylmethyl-4,5α-epoxy-3-hydroxy-17-methyl-6-oxomorphinanium-iodide | [I-].ClC1=CC=C(CO[C@@]23CCC([C@H]4[C@]25C=2C(=C(C=CC2C[C@H]3[N@@+](CC5)(C)CC5CC5)O)O4)=O)C=C1 | InChI=1S/C28H30ClNO4.HI/c1-30(15-17-2-3-17)13-12-27-24-19-6-9-21(31)25(24)34-26(27)22(32)10-11-28(27,23(30)14-19)33-16-18-4-7-20(29)8-5-18;/h4-9,17,23,26H,2-3,10-16H2,1H3;1H/t23-,26+,27+,28-,30-;/m1./s1
